US07151105B2
Step 2: 4-Bromo-2-ethyl-N-methyl-benzamide
To a solution of 4-bromo-2-ethyl-benzoyl chloride (1.00 g, 4.04 mmol) in CH2Cl2 (20 mL) was added methylamine (0.70 mL, 40% solution in water, 8.08 mmol). The mixture was stirred for 3 hours, at which time the volatiles were removed in vacuo. The residue was dissolved in EtOAc, washed with H2O, dried over MgSO4, and concentrated to a brown oil (0.857 g, 88%). 1H NMR (300 MHz, CDCl3): δ 1.21 (t, J=7.4 Hz, 3 H), 2.75 (q, J=7.5 Hz, 2 H), 2.97 (d, J=4.9 Hz, 3 H), 5.74 (s, 1 H), 7.17 (d, J=8.1 Hz, 1 H), 7.32 (d, J=8.1 Hz, 1 H), 7.39 (s, 1 H).

reactant | 4-bromo-2-ethyl-benzoyl chloride | 4.04 mmol, 1.00 g | BrC1=CC(=C(C(=O)Cl)C=C1)CC | C9H8BrClO
reactant | methylamine | 8.08 mmol, 0.70 mL | CN | CH5N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-2-ethyl-N-methyl-benzamide | BrC1=CC(=C(C(=O)NC)C=C1)CC | C10H12BrNO
